US03998834
A mixture of 100 parts of 4-[(4-methylphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxamide, 52.2 parts of potassium hydroxide and 638 parts of 1,2-ethanediol is stirred and refluxed for 25 hours. After cooling, 1200 parts of water are added and the whole is acidified with a concentrated hydrochloric acid solution. The acid aqueous phase is alkalized with a sodium hydroxide solution 60%: exothermic reaction. After cooling, the precipitated crude product is filtered off and dissolved in water. This solution is acidified with acetic acid (pH about 6.5) and the product is filtered off. It is crystallized from N,N-dimethylformamide, filtered off again, washed with 2-propanone and dried, yielding 4-[(4-methylphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid; mp. 270° C.

reactant | 4-[(4-methylphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxamide | CC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N | C20H25N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | 1,2-ethanediol | C(CO)O | C2H6O2
product | 4-[(4-methylphenyl)amino]-1-(phenylmethyl)-4-piperidinecarboxylic acid | CC1=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C20H24N2O2
